US09340513B2
4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((2-Hydroxyethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid
To a solution of 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((2-hydroxyethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate (60 mg, 0.083 mmol) in DCM (5 mL) stirred at room temp was added TFA (2.5 mL, 32.4 mmol). The reaction mixture was stirred at 30° C. for 2 h. The reaction was evaporated to dryness then diluted with 200 mL DCM. The organic phase was washed with saturated NaHCO3 solution (200 mL*3), water and brine. The organics were dried and concentrated under reduced pressure to afford crude product which was further purified by preparative-HPLC to afford the title compound (35 mg, 63%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ=6.85 (d, J=16.1 Hz, 1H), 5.96 (d, J=16.1 Hz, 1H), 4.49 (dd, J=5.5, 10.5 Hz, 1H), 3.64 (t, J=5.6 Hz, 2H), 3.39 (t, J=5.6 Hz, 2H), 3.37-3.21 (m, 1H), 2.91 (dd, J=4.1, 11.7 Hz, 0H), 2.68-2.50 (m, 2H), 2.33-2.10 (m, 3H), 2.09-0.75 (m, 44H).

reactant | 1-tert-butyl 4-((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((2-hydroxyethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl) 2,2-dimethylsuccinate | 0.083 mmol, 60 mg | CC(C(=O)OC(C)(C)C)(CC(=O)O[C@@H]1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5(C([C@H]4CC[C@@H]3[C@]2(CC1)C)=C(C(C5)=O)C(C)C)\C=C\C(=O)NCCO)C)C)(C)C)C | C44H69NO7
reactant | TFA | 32.4 mmol, 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(((3aS,5aR,5bR,7aR,9S,11aR,11bR,13aS)-3a-((E)-3-((2-Hydroxyethyl)amino)-3-oxoprop-1-en-1-yl)-1-isopropyl-5a,5b,8,8,11a-pentamethyl-2-oxo-3,3a,4,5,5a,5b,6,7,7a,8,9,10,11,11a,11b,12,13,13a-octadecahydro-2H-cyclopenta[a]chrysen-9-yl)oxy)-2,2-dimethyl-4-oxobutanoic acid | 35 mg, 63% | OCCNC(/C=C/[C@]12C([C@H]3CC[C@@H]4[C@]5(CC[C@@H](C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)OC(CC(C(=O)O)(C)C)=O)C)=C(C(C2)=O)C(C)C)=O | C40H61NO7
